2182-08-22 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2182-8-21**] 12:14 PM
 URINE CULTURE - At [**2182-8-21**] 08:41 PM
 BLOOD CULTURED - At [**2182-8-21**] 08:41 PM
 FEVER - 101.2
F - [**2182-8-21**] 08:13 PM
   - bronched, cleaned out secretions, BAL
   - CXR with improvement
   - failed weaning from PS, needed increased sedation steadily overnight
   w/ versed 4 / fentanyl 200, serial ABGs remained unchanged CO2, with
   improved O2
   - spiked to 101, cultured, abx changed to vanc/unasyn
   - Cr 1.9 in afternoon, FeNa 0.05%, intrabd pressure < 15, U/A improved,
   no e/o ATN/AIN -> pre-renal, given 500cc NS bolus over 2 hrs twice
   overnight
   - increased resp secretions noted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2182-8-21**] 04:27 PM
   Vancomycin - [**2182-8-21**] 09:43 PM
   Ampicillin/Sulbactam (Unasyn) - [**2182-8-22**] 05:40 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2182-8-21**] 10:36 AM
   Famotidine (Pepcid) - [**2182-8-21**] 08:18 PM
   Enoxaparin (Lovenox) - [**2182-8-21**] 08:42 PM
   Midazolam (Versed) - [**2182-8-22**] 04:29 AM
   Fentanyl - [**2182-8-22**] 04:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.1
C (100.6
   HR: 104 (98 - 117) bpm
   BP: 114/58(74) {76/45(55) - 131/72(89)} mmHg
   RR: 16 (9 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
    Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  3,687 mL
                                                                    720 mL
   PO:
   TF:
   IVF:
                                                                  3,687 mL
                                                                    720 mL
   Blood products:
   Total out:
                                                                  1,124 mL
                                                                    326 mL
   Urine:
                                                                    549 mL
                                                                    211 mL
   NG:
   Stool:
   Drains:
                                                                    575 mL
                                                                    115 mL
   Balance:
                                                                  2,563 mL
                                                                    394 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 800 (700 - 800) mL
   Vt (Spontaneous): 743 (372 - 844) mL
   PS : 10 cmH2O
   RR (Set): 25
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 11 cmH2O
   Plateau: 23 cmH2O
   SpO2: 95%
   ABG: 7.32/51/95.[**Numeric Identifier **]/23/0 //
   Ve: 11.1 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: R hip with dressing in place, drain with sanguinous drainage,
   bilateral 1+ pedal pulses, bilateral LE TEDS stockings, abductor pillow
   in place
   Labs / Radiology
   94 K/uL
   11.6 g/dL
   143 mg/dL
   2.3 mg/dL
   23 mEq/L
   5.0 mEq/L
   38 mg/dL
   105 mEq/L
   139 mEq/L
   34.3 %
   21.1 K/uL
         [image002.jpg]
                             [**2182-8-21**]  04:49 AM
                             [**2182-8-21**]  09:09 AM
                             [**2182-8-21**]  11:04 AM
                             [**2182-8-21**]  02:56 PM
                             [**2182-8-21**]  05:06 PM
                             [**2182-8-21**]  06:02 PM
                             [**2182-8-21**]  07:54 PM
                             [**2182-8-21**]  08:44 PM
                             [**2182-8-22**]  03:49 AM
                             [**2182-8-22**]  04:12 AM
   WBC
   23.9
   23.7
   21.1
   Hct
   39.1
   36.8
   34.3
   Plt
   97
   84
   94
   Cr
   2.2
   1.9
   2.3
   TCO2
   25
   29
   26
   27
   29
   28
   27
   Glucose
   138
   137
   143
   Other labs: PT / PTT / INR:14.3/32.1/1.2, CK / CKMB /
   Troponin-T:7250//, Differential-Neuts:74.0 %, Band:8.0 %, Lymph:5.0 %,
   Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL,
   Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.9 mg/dL
                                                                    04:12a
   _______________________________________________________________________
                                     pH
                                    7.32
                                    pCO2
                                     51
                                     pO2
                                     95
                                    HCO3
                                     27
                                   BaseXS
                                      0
   Type:Art; Intubated; Vent:Spontaneous; FiO2%:50; Rate:/16; TV:600;
   PEEP:8; Temp:38.1
   Lactate:1.7
                                                                     8:44p
   _______________________________________________________________________
                                     pH
                                    7.31
                                    pCO2
                                     54
                                     pO2
                                     94
                                    HCO3
                                     28
                                   BaseXS
                                      0
   Type:Art; Intubated; Vent:Spontaneous; FiO2%:50; Rate:/18; TV:400;
   PEEP:8; Temp:39.6
   Lactate:1.9
                                                                [**2182-8-21**]
                                                                     6:02p
   _______________________________________________________________________
                                     pH
                                    7.30
                                    pCO2
                                     56
                                     pO2
                                     79
                                    HCO3
                                     29
                                   BaseXS
                                      0
   Type:Art; Intubated; Temp:39.0
   Lactate:1.6
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACIDOSIS, RESPIRATORY
 ACIDOSIS, MIXED
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   This is a 48 year-old man s/p prolonged IM nail removal and bipolar R
   hip replacement complicated by large volume blood loss, transferred to
   the [**Hospital Unit Name 10**] for monitoring still intubated.
   .
   #  Respiratory failure:  Likely secondary to alveolar hypoventilation
   due to LLL collapse causing a significant respiratory acidosis.  This
   was most likely a result of the pt lying on his left side for many
   hours during the surgery, compounded by volume overload and increased
   pulmonary secretions. The secretions have continued, and sedation was
   increased fent 200 / versed 4 at 4am.
   - monitor ABGs closely
   - CXR appears stable from yesterday afternoon, will repeat tomorrow AM
   - attempt to wean again today, can consider precedex if necessary given
   ETOH/percocet history
   - albuterol MDI q2 prn
   - aggressive suctioning and chest PT
   - caution with further IVF
   .
   #  Decreased urine output:  Concern for ATN vs pre-renal. Although
   Una<10, FeNa 0.05%, intrabd pressure < 15, U/A improved, no e/o ATN/AIN
   -> pre-renal, given 500cc NS bolus over 2 hrs twice overnight. UOP has
   not increased after IVF challenge, raising concern for ATN
   - cont to monitor UOP, have given 500cc at 5am
   - recheck afternoon lytes
   .
   # ID: spiked to 101 overnight. WBC trended down slightly to 21.
   - changed to vanc/unasyn
   - f/u BCx
   .
   #  s/p hip surgery:
   - ortho recs: unchanged today (see below)
   - start lovenox 30 [**Hospital1 **] in am
   - AP pelvis
   - strict posterior hip precautions
   - abduction pillow btw legs
   - hob not greater than 90
   .
   #  Elevated Lactate:  Concern for hypoperfusion in the setting of
   significant volume loss during surgery.  Received 1L LR on arrival to
   the [**Hospital Unit Name 10**]. Now improved to around 1.7
   - cont to monitor lactate
   - expect to improve with IVF
   .
   # FEN: IVF as above, replete electrolytes, NPO
   .
   # Prophylaxis: lovenox in the AM, bowel regimen
   .
   # Access: peripherals
   .
   # Code: full code
   .
   # Communication:
   .
   # Disposition: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2182-8-20**] 10:30 PM
   16 Gauge - [**2182-8-20**] 10:42 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2182-08-23 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**8-22**]
   - patient tolerated extubation well.
   - put on CIWA protocol with Valium, received 80mg overnight
   -on morphine for pain, received 12g overnight
   - patient could not be fitted for a brace due to sedation.
   - pt pulled out arterial line
   -agitated at times, pulled out IV, had to be restrained
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2182-8-21**] 04:27 PM
   Ampicillin/Sulbactam (Unasyn) - [**2182-8-22**] 05:42 PM
   Vancomycin - [**2182-8-22**] 08:08 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-8-22**] 07:41 AM
   Enoxaparin (Lovenox) - [**2182-8-22**] 07:41 AM
   Morphine Sulfate - [**2182-8-23**] 05:00 AM
   Diazepam (Valium) - [**2182-8-23**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-23**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 104 (103 - 122) bpm
   BP: 183/74(101) {117/47(33) - 183/80(143)} mmHg
   RR: 17 (15 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 130.6 kg (admission): 118 kg
                  Total In:
                                                                  1,404 mL
                  PO:
                  TF:
   IVF:
                                                                  1,404 mL
   Blood products:
   Total out:
                                                                  1,196 mL
                                                                    500 mL
   Urine:
                                                                    896 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
                                                                    300 mL
                                                                    210 mL
   Balance:
                                                                    208 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: NRB
   Ventilator mode:
   Vt (Spontaneous):
   PS :
   RR: 17
   PEEP:
   FiO2: 50%
   SpO2: 96%
   ABG: 7.30/53/81.[**Numeric Identifier 8**]/25/0
   Ve:
   PaO2 / FiO2:
   Physical Examination
   General: Sedated, in no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi.
   Exam limited patient sedated and restrained.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds hypoactive, no
   rebound tenderness or guarding, no organomegaly
   Ext: R hip with dressing in place, 2 JP drains in place w/ little
   drainage, bilateral 1+ pedal pulses, bilateral LE TEDS stockings,
   abductor pillow in place
   Neurologic: Not assessed
   Labs / Radiology
   86 K/uL
   10.1 g/dL
   155 mg/dL
   1.9 mg/dL
   25 mEq/L
   4.4 mEq/L
   59 mg/dL
   109 mEq/L
   142 mEq/L
   30.0 %
   16.5 K/uL
        [image002.jpg]
   TSH: 0.33
   UCx: (-)
   BCx: Pending
[**2182-8-21**] 1:08 pm BRONCHIAL WASHINGS
   GRAM STAIN (Final [**2182-8-21**]):
      3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING.
[**2182-8-21**] 2:32 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2182-8-21**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING.
   [**8-22**] CXR:
   R hip XR:
   The new right hip hemiarthroplasty is seen with normal positioning. No
   new
   fractures or dislocations are identified.
                             [**2182-8-21**]  05:06 PM
                             [**2182-8-21**]  06:02 PM
                             [**2182-8-21**]  07:54 PM
                             [**2182-8-21**]  08:44 PM
                             [**2182-8-22**]  03:49 AM
                             [**2182-8-22**]  04:12 AM
                             [**2182-8-22**]  10:47 AM
                             [**2182-8-22**]  01:38 PM
                             [**2182-8-22**]  05:30 PM
                             [**2182-8-23**]  04:53 AM
   WBC
   23.7
   21.1
   16.5
   Hct
   36.8
   34.3
   30.0
   Plt
   84
   94
   86
   Cr
   1.9
   2.3
   2.2
   1.9
   TCO2
   27
   29
   28
   27
   29
   27
   Glucose
   137
   143
   150
   155
   Other labs: PT / PTT / INR:14.3/32.1/1.2, CK / CKMB /
   Troponin-T:7250//, Differential-Neuts:74.0 %, Band:8.0 %, Lymph:5.0 %,
   Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACIDOSIS, RESPIRATORY
 ACIDOSIS, MIXED
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   This is a 48 year-old man s/p prolonged IM nail removal and bipolar R
   hip replacement complicated by large volume blood loss, transferred to
   the [**Hospital Unit Name 10**] for monitoring still intubated.
   #  Atrial Fibrillation:  Pt went into afib w/ RVR up to the 180s at
   1000 today.  Was given metoprolol IV 5 mg x 3 with partial response, HR
   down 140s and went into atrial flutter w/ 2:1 block. Metoprolol 5
   mg IV Q4H was started.  Pt was still tachy to the 140s and Diltiazem 10
   mg IV x1 was given.  Current HR 110s-120s.  BP was stable throughout.
   -cont metoprolol 5 mg iv q4h
   - will try to further control pt
s a-flutter w/ diltiazem
   #  Respiratory failure:  Likely secondary to alveolar hypoventilation
   due to LLL collapse causing a significant respiratory acidosis.  This
   was most likely a result of the pt lying on his left side for many
   hours during the surgery, compounded by volume overload and increased
   pulmonary secretions. The secretions have continued, and sedation was
   increased fent 200 / versed 4 at 4am. CO2 in low 50s, likely stable
   hypercapnia given smoking history. Successfully extubated yesterday
   currently on CPAP.
   - monitor ABGs closely / daily CXRs
   - albuterol MDI q2 prn
   - chest PT
   - caution with further IVF
   .
   #  Decreased urine output:  Concern for ATN vs pre-renal. Although
   Una<10, FeNa 0.05%, intrabd pressure < 15, U/A improved, no e/o ATN/AIN
   -> pre-renal.  Pt
s ATN now resolving, Cr trending down from 2.2
   yesterday to 1.9 today.
   - cont to monitor UOP
   - cont to monitor Cr
   .
   # ID: Afebrile overnight. WBC trending down 16.9 today. Sputum w/ GNR,
   GPR.
   - changed to vanc/unasyn, can consider [**Last Name (un) **] or zosyn for pseudomonal
   coverage if spikes again
   - f/u BCx, bronch washings
   #  s/p hip surgery:
   - ortho recs: unchanged today (see below)
   - strict posterior hip precautions
   - abduction pillow btw legs
   - hob not greater than 90
   .
   #  Elevated Lactate:  Concern for hypoperfusion in the setting of
   significant volume loss during surgery.  Now improved to around 1.7 on
   [**8-22**].
   - expect to improve with IVF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2182-8-20**] 10:30 PM
   16 Gauge - [**2182-8-20**] 10:42 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments: Pt agitated at times,
   pulling on his lines.  Had to be restrained, please cont restrains.
   Code status: Full code
   Disposition: ICU

2182-08-24 06:52:00 Physician Resident Progress Note
Chief Complaint: intubated post-op
   24 Hour Events:
   - received 115mg valium, 16mg morphine and 5mg haldol over the course
   of the day.
   - patient's family came to visit last night and were aggitated.  They
   talked to the ortho attending and this seemed to calmed them down.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2182-8-21**] 04:27 PM
   Ampicillin/Sulbactam (Unasyn) - [**2182-8-23**] 06:11 PM
   Vancomycin - [**2182-8-23**] 08:16 PM
   Bactrim (SMX/TMP) - [**2182-8-24**] 06:35 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-8-23**] 08:13 AM
   Diltiazem - [**2182-8-23**] 12:43 PM
   Morphine Sulfate - [**2182-8-23**] 01:41 PM
   Haloperidol (Haldol) - [**2182-8-23**] 01:43 PM
   Metoprolol - [**2182-8-24**] 04:30 AM
   Diazepam (Valium) - [**2182-8-24**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-24**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 95 (75 - 177) bpm
   BP: 152/62(83) {101/36(59) - 191/83(101)} mmHg
   RR: 22 (13 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.3 kg (admission): 118 kg
   Height: 72 Inch
             Total In:
                                                                    890 mL
                                                                  1,068 mL
   PO:
             TF:
   IVF:
                                                                    890 mL
                                                                  1,068 mL
   Blood products:
   Total out:
                                                                  2,130 mL
                                                                    495 mL
   Urine:
                                                                  1,810 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
                                                                    320 mL
                                                                     60 mL
   Balance:
                                                                 -1,240 mL
                                                                    573 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   General: Sedated, in no acute distress, on CPAP
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi.
   Exam limited patient sedated and restrained.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds hypoactive, no
   rebound tenderness or guarding, no organomegaly
   Ext: R hip with dressing in place, 2 JP drains in place w/ little
   drainage, bilateral 1+ pedal pulses, bilateral LE TEDS stockings,
   abductor pillow in place
   Neurologic: Not assessed
   Labs / Radiology
   85 K/uL
   9.5 g/dL
   133 mg/dL
   1.4 mg/dL
   30 mEq/L
   5.1 mEq/L
   68 mg/dL
   111 mEq/L
   146 mEq/L
   28.6 %
   9.3 K/uL
        [image002.jpg]
                             [**2182-8-21**]  06:02 PM
                             [**2182-8-21**]  07:54 PM
                             [**2182-8-21**]  08:44 PM
                             [**2182-8-22**]  03:49 AM
                             [**2182-8-22**]  04:12 AM
                             [**2182-8-22**]  10:47 AM
                             [**2182-8-22**]  01:38 PM
                             [**2182-8-22**]  05:30 PM
                             [**2182-8-23**]  04:53 AM
                             [**2182-8-24**]  04:18 AM
   WBC
   23.7
   21.1
   16.5
   9.3
   Hct
   36.8
   34.3
   30.0
   28.6
   Plt
   84
   94
   86
   85
   Cr
   1.9
   2.3
   2.2
   1.9
   1.5
   TCO2
   29
   28
   27
   29
   27
   Glucose
   137
   143
   150
   155
   127
   Other labs: PT / PTT / INR:14.3/32.1/1.2, CK / CKMB /
   Troponin-T:7250//, Differential-Neuts:74.0 %, Band:8.0 %, Lymph:5.0 %,
   Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL,
   Ca++:7.7 mg/dL, Mg++:2.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACIDOSIS, RESPIRATORY
 ACIDOSIS, MIXED
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   This is a 48 year-old man s/p prolonged IM nail removal and bipolar R
   hip replacement complicated by large volume blood loss, transferred to
   the [**Hospital Unit Name 10**] for monitoring still intubated.
   #  Respiratory failure:  Likely secondary to alveolar hypoventilation
   due to LLL collapse causing a significant respiratory acidosis.  This
   was most likely a result of the pt lying on his left side for many
   hours during the surgery, compounded by volume overload and increased
   pulmonary secretions. The secretions have continued, and sedation was
   increased fent 200 / versed 4 at 4am. CO2 in low 50s, likely stable
   hypercapnia given smoking history. Successfully extubated yesterday
   currently on CPAP.
   - monitor ABGs closely / daily CXRs
   - albuterol MDI q2 prn
   - chest PT
   #  Atrial Fibrillation:  Pt went into afib w/ RVR up to the 180s
   yesterday.  Was given metoprolol IV 5 mg x 3 with partial response, HR
   down 140s, subsequently converted into atrial flutter w/ 2:1 block.
   Metoprolol 5 mg IV Q4H was started.  Pt was still tachy to the 140s and
   Diltiazem 10 mg IV x1 was given w/ good response.  Current HR
   100s-110s.  BP was stable throughout.
   -cont metoprolol 5 mg iv q4h
   .
   #  Decreased urine output:  Concern for ATN vs pre-renal. Although
   Una<10, FeNa 0.05%, intrabd pressure < 15, U/A improved, no e/o ATN/AIN
   -> pre-renal.  Pt
s ATN now resolving, Cr trending down from 1.9
   yesterday to 1.4 today.  Currently w/ good UOP ~70-80cc/hr
   - cont to monitor UOP
   - cont to monitor Cr
   .
   # ID: Afebrile overnight. WBC trending down 9.3 today. Sputum w/ GNR,
   GPR.
   - currenlty on vanc/unasyn, can consider [**Last Name (un) **] or zosyn for pseudomonal
   coverage if spikes again
   - f/u BCx, bronch washings
   #  s/p hip surgery:
   - ortho recs: unchanged today (see below)
   - strict posterior hip precautions
   - abduction pillow btw legs
   - hob not greater than 90
   ICU Care
   Nutrition: NPO, advance to regular as tolerated.
   Glycemic Control:
   Lines:
   Arterial Line - [**2182-8-20**] 10:30 PM
   16 Gauge - [**2182-8-20**] 10:42 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments: Pt agitated at times,
   pulling on his lines.  Had to be restrained, please cont restrains.
   Code status: Full code
   Disposition: ICU

2182-08-24 10:28:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   S/P Hip Repair
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extensive Family discussions held yesterday
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2182-8-21**] 04:27 PM
   Ampicillin/Sulbactam (Unasyn) - [**2182-8-23**] 06:11 PM
   Bactrim (SMX/TMP) - [**2182-8-24**] 06:35 AM
   Vancomycin - [**2182-8-24**] 08:26 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2182-8-23**] 12:43 PM
   Morphine Sulfate - [**2182-8-23**] 01:41 PM
   Haloperidol (Haldol) - [**2182-8-23**] 01:43 PM
   Metoprolol - [**2182-8-24**] 04:30 AM
   Diazepam (Valium) - [**2182-8-24**] 05:15 AM
   Famotidine (Pepcid) - [**2182-8-24**] 08:00 AM
   Enoxaparin (Lovenox) - [**2182-8-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2182-8-24**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 103 (75 - 140) bpm
   BP: 158/76(96) {101/36(59) - 185/83(100)} mmHg
   RR: 21 (14 - 26) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 118.3 kg (admission): 118 kg
   Height: 72 Inch
             Total In:
                                                                    890 mL
                                                                  1,352 mL
   PO:
             TF:
   IVF:
                                                                    890 mL
                                                                  1,352 mL
   Blood products:
   Total out:
                                                                  2,130 mL
                                                                    875 mL
   Urine:
                                                                  1,810 mL
                                                                    815 mL
   NG:
   Stool:
   Drains:
                                                                    320 mL
                                                                     60 mL
   Balance:
                                                                 -1,240 mL
                                                                    477 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right hip in dressing, distal pulses in tact.
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, eyes mid-line,
   PEERL, no follow commands but does move all extremities to pain
   Labs / Radiology
   9.5 g/dL
   85 K/uL
   133 mg/dL
   1.4 mg/dL
   30 mEq/L
   5.1 mEq/L
   68 mg/dL
   111 mEq/L
   146 mEq/L
   28.6 %
   9.3 K/uL
        [image002.jpg]
                             [**2182-8-21**]  07:54 PM
                             [**2182-8-21**]  08:44 PM
                             [**2182-8-22**]  03:49 AM
                             [**2182-8-22**]  04:12 AM
                             [**2182-8-22**]  10:47 AM
                             [**2182-8-22**]  01:38 PM
                             [**2182-8-22**]  05:30 PM
                             [**2182-8-23**]  04:53 AM
                             [**2182-8-24**]  04:18 AM
                             [**2182-8-24**]  06:00 AM
   WBC
   23.7
   21.1
   16.5
   9.3
   Hct
   36.8
   34.3
   30.0
   28.6
   Plt
   84
   94
   86
   85
   Cr
   1.9
   2.3
   2.2
   1.9
   1.5
   1.4
   TCO2
   28
   27
   29
   27
   Glucose
   137
   143
   150
   155
   127
   133
   Other labs: PT / PTT / INR:14.3/32.1/1.2, CK / CKMB /
   Troponin-T:7250//, Differential-Neuts:74.0 %, Band:8.0 %, Lymph:5.0 %,
   Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL,
   Ca++:7.7 mg/dL, Mg++:2.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   48 yo male now admitted following total hip replacement with prolonged
   OR procedure and in the setting of significant EtOH abuse has had high
   requirement for benzodiazepine replacement.  He has maintained stable
   respiratory status following extubation.  He has had encouraging
   decreased in WBC count across time and despite continued high dosing of
   benzodiazepines he has maintained continued good capacity to maintain
   airway but still has limited gag reflex.
   1)Respiratory Failure-Patient extubated at this time, persistent
   altered mental status
   -Continue suctioning
   -Utilize NIV as needed for respiratory supression
   -Continue with B-agonists as needed
   -OOB when possible
   2)Altered Mental Status-This is clearly multi-factorial and driven by
   EtOH withdrawl and with benzo Rx needed.
   -Valium PRN
   -CIWA scale
   -Thiamine/Folate/MVI
   -Continue close examinations
   3)Acute Renal Failure-Likely pre-renal
   -Renal dose all medications
   -Continue to follow Cr
   -IVF and urine lytes for any worsening
   -Goal I/O is even to negative across the day today.
   4)Leukocytosis-Improving WBC count
   -Unasyn continuing and current Rx is directed at possible pulmonary
   source of infection but with mixed flora noted on bronchoscopy done in
   the setting of active infection.
   -Will continue with broad spectrum ABX until sensitivities noted and
   bronchoscopy finalized
   -Primary insult may well be aspiration noted around time of intubation.
 ATRIAL FIBRILLATION (AFIB)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACIDOSIS, RESPIRATORY
 ACIDOSIS, MIXED
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition: PO diet as tolerated with return of GAG reflex
   Glycemic Control:
   Lines:
   16 Gauge - [**2182-8-20**] 10:42 PM
   20 Gauge - [**2182-8-23**] 09:56 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35

2182-08-25 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2182-8-25**] 04:13 AM
   - BP up to 200, HR in 110s, given 5, 10, and 10 of diazepam over the
   course of yesterday and night on top of CIWA / increased standing
   lopressor to 10 IV q4
   - NGT placed, TF started
   - BAL with hemoph influ +beta lactamase (amp resistant), s pneumo,
   sensitivities pending
   - spiked to 101, sent Bcx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-8-24**] 08:26 AM
   Ampicillin/Sulbactam (Unasyn) - [**2182-8-24**] 05:56 PM
   Bactrim (SMX/TMP) - [**2182-8-25**] 06:10 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-8-24**] 08:00 AM
   Enoxaparin (Lovenox) - [**2182-8-24**] 08:04 PM
   Metoprolol - [**2182-8-25**] 03:30 AM
   Diazepam (Valium) - [**2182-8-25**] 05:07 AM
   Morphine Sulfate - [**2182-8-25**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-25**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 84 (79 - 110) bpm
   BP: 163/78(99) {158/55(81) - 208/113(125)} mmHg
   RR: 28 (17 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.6 kg (admission): 118 kg
   Height: 72 Inch
             Total In:
                                                                  1,801 mL
                                                                    401 mL
   PO:
             TF:
             44 mL
   IVF:
                                                                  1,801 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  2,855 mL
                                                                  1,030 mL
   Urine:
                                                                  2,795 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
   Balance:
                                                                 -1,054 mL
                                                                   -629 mL
   Respiratory support
   O2 Delivery Device: Face tent, 40%
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General: Sedated, in no acute distress, on CPAP
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi.
   Exam limited patient sedated and restrained.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds hypoactive, no
   rebound tenderness or guarding, no organomegaly
   Ext: R hip with dressing in place, bilateral 1+ pedal pulses, bilateral
   LE TEDS stockings, abductor pillow in place
   Neurologic: Not assessed
   Labs / Radiology
   83 K/uL
   8.9 g/dL
   136 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.7 mEq/L
   48 mg/dL
   116 mEq/L
   151 mEq/L
   26.9 %
   5.8 K/uL
        [image002.jpg]
                             [**2182-8-21**]  08:44 PM
                             [**2182-8-22**]  03:49 AM
                             [**2182-8-22**]  04:12 AM
                             [**2182-8-22**]  10:47 AM
                             [**2182-8-22**]  01:38 PM
                             [**2182-8-22**]  05:30 PM
                             [**2182-8-23**]  04:53 AM
                             [**2182-8-24**]  04:18 AM
                             [**2182-8-24**]  06:00 AM
                             [**2182-8-25**]  03:50 AM
   WBC
   21.1
   16.5
   9.3
   5.8
   Hct
   34.3
   30.0
   28.6
   26.9
   Plt
   94
   86
   85
   83
   Cr
   2.3
   2.2
   1.9
   1.5
   1.4
   1.0
   TCO2
   28
   27
   29
   27
   Glucose
   143
   150
   155
   127
   133
   136
   Other labs: PT / PTT / INR:14.3/32.1/1.2, CK / CKMB /
   Troponin-T:7250//, Differential-Neuts:74.0 %, Band:8.0 %, Lymph:5.0 %,
   Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.9 mg/dL, PO4:1.9 mg/dL
   CXR: NGT tip not directly visualized but thought to be at least at GE
   jxn, was then advanced 5cm and started TF 6 hrs later. Also, noted for
   new RLL collapse.
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ATRIAL FIBRILLATION (AFIB)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACIDOSIS, RESPIRATORY
 ACIDOSIS, MIXED
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   This is a 48 year-old man s/p prolonged IM nail removal and bipolar R
   hip replacement complicated by large volume blood loss, transferred to
   the [**Hospital Unit Name 10**] for monitoring still intubated.
   #  Hypoxemia:  Likely secondary to HAP (initially LLL infiltrate), now
   CXR shows ?collapsed RLL. This was most likely a result of the pt lying
   on his left side for many hours during the surgery, compounded by
   volume overload and increased pulmonary secretions. The secretions have
   continued to be greenish and concerning. Fentanyl/versed sedation
   weaned off. CO2 in low 50s, likely stable hypercapnia given smoking
   history. Successfully extubated yesterday currently on BiPAP. Pt
   continues to spike at night, although WBC trending down now 5.8. BAL w/
   H. flu +beta lactamase (amp resistant), S. pneumo. There is also a
   component of resp depression and withdrawal contributing to hypoxemia.
   - will start vanc/zosyn for presumed HAP
   - repeat CXR today
   - deep suction / chest PT
   - resend sputum
   - wean from CIWA scale today
   - start clonidine 0.4 daily, prn haldol
   - albuterol MDI q2 prn
   .
   #  Atrial Fibrillation:  Pt went into afib w/ RVR up to the 180s
   yesterday.  Was given metoprolol IV 5 mg x 3 with partial response, HR
   down 140s, subsequently converted into atrial flutter w/ 2:1 block.
   Metoprolol 5 mg IV Q4H was started.  Pt was still tachy to the 140s and
   Diltiazem 10 mg IV x1 was given w/ good response.  Yesterday pt BPs in
   low 200s, with HRs in 110s, given CIWA and increased lopressor to 10
   q4.
   -transition to 50 tid po lopressor with IV bolus prn
   -CIWA scale wean (per above)
   -clonidine (per above)
   .
   #  Decreased urine output:  Concern for ATN vs pre-renal. Although
   Una<10, FeNa 0.05%, intrabd pressure < 15, U/A improved, no e/o ATN/AIN
   -> pre-renal.  Pt
s ATN now resolving, Cr steadily improving daily, now
   1.0.  Currently w/ good UOP ~70-80cc/hr. Achieved I/O goal yesterday of
   -1L.
   - cont to monitor UOP, Cr
   .
   # Hypernatremia: pt had I/O goal yesterday of -1L. free water deficit
   is approx -5.5L.
   - 200cc q4h free water through tube feeds
   .
   #  s/p hip surgery:
   - f/u ortho recs
   - strict posterior hip precautions
   - abduction pillow btw legs
   - hob not greater than 90
   .
   ICU Care
   Nutrition:
   NGT in place / Replete with Fiber (Full) - [**2182-8-25**] 04:30 AM 20
   mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2182-8-20**] 10:42 PM
   20 Gauge - [**2182-8-23**] 09:56 AM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level of care

2182-08-25 10:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   EtOH Withdrawl
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2182-8-25**] 04:13 AM
   NGT placed for tube feeds
   Continued high benzodiazepine requirements
   Polymicrobial cultures seen from BAL
   Recurrent fevers, tachycardia and hypertension
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-8-24**] 08:26 AM
   Ampicillin/Sulbactam (Unasyn) - [**2182-8-24**] 05:56 PM
   Bactrim (SMX/TMP) - [**2182-8-25**] 06:10 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2182-8-24**] 08:04 PM
   Diazepam (Valium) - [**2182-8-25**] 05:07 AM
   Morphine Sulfate - [**2182-8-25**] 06:07 AM
   Famotidine (Pepcid) - [**2182-8-25**] 08:00 AM
   Metoprolol - [**2182-8-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2182-8-25**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.4
C (99.4
   HR: 93 (79 - 110) bpm
   BP: 196/100(168) {162/55(81) - 208/113(168)} mmHg
   RR: 24 (17 - 33) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.6 kg (admission): 118 kg
   Height: 72 Inch
             Total In:
                                                                  1,801 mL
                                                                    766 mL
   PO:
             TF:
             131 mL
   IVF:
                                                                  1,801 mL
                                                                    434 mL
   Blood products:
   Total out:
                                                                  2,855 mL
                                                                  1,350 mL
   Urine:
                                                                  2,795 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
   Balance:
                                                                 -1,054 mL
                                                                   -584 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 87%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   83 K/uL
   136 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.7 mEq/L
   48 mg/dL
   116 mEq/L
   151 mEq/L
   26.9 %
   5.8 K/uL
        [image002.jpg]
                             [**2182-8-21**]  08:44 PM
                             [**2182-8-22**]  03:49 AM
                             [**2182-8-22**]  04:12 AM
                             [**2182-8-22**]  10:47 AM
                             [**2182-8-22**]  01:38 PM
                             [**2182-8-22**]  05:30 PM
                             [**2182-8-23**]  04:53 AM
                             [**2182-8-24**]  04:18 AM
                             [**2182-8-24**]  06:00 AM
                             [**2182-8-25**]  03:50 AM
   WBC
   21.1
   16.5
   9.3
   5.8
   Hct
   34.3
   30.0
   28.6
   26.9
   Plt
   94
   86
   85
   83
   Cr
   2.3
   2.2
   1.9
   1.5
   1.4
   1.0
   TCO2
   28
   27
   29
   27
   Glucose
   143
   150
   155
   127
   133
   136
   Other labs: PT / PTT / INR:14.3/32.1/1.2, CK / CKMB /
   Troponin-T:7250//, Differential-Neuts:74.0 %, Band:8.0 %, Lymph:5.0 %,
   Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.9 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR--Right lower lobe collapse noted, NGT in
   esophagus--concerning for persistent pneumonia and collapse.
   Assessment and Plan
   48 yo male s/p hip repair with post operative course complicated by
   significant EtOH withdrawl.  This has been complicated by significant
   respiratory failure and with recurrent and persistent fevers likely
   attributable to both EtOH withdrawl and pneumonia resolution.
   Encouragingly patient has had capacity to maintain oxygenation at
   reasonable levels wtih FIO2=0.4
   1)Hip Repair
completed, pain controlled
   2)EtOH Withdrawl-
   -valium 40mg in past 24 hours
   -Thiamine
   -Based upon examination this morning patient has decreased
   responsiveness and concern for excess sedation in the setting of
   continued autonomic activation
   -Clonidine for withdrawl
   -Valium to continue
   -Haldol as needed
   3)Hypoxemia-
   -Pneumonia--Primary contributor to respiratory failure in addition to
   mental status.  He has had S. Pneumoniae and H. Flu identified on
   initial cultures.  We have concern for persistent active pneumonia with
   fever, sputum, hypoxemia.
                    -will broaden to Vanco/Zosyn
                    -Albuterol to continue as needed
   -Right Lower Lobe Collapse-
                    -will need to actively participate in chest PT
                    -In interim he needs NT suctioning
                    -CXR in morning
   -Aspiration
Raised as a concern
will very NGT placement
                    -CXR this morning to confirm NGT placement and
   continue RX
   4)Hypernatremia-
   1.8 liters/d free water given over past 24 hours
   Is 5 liter free water deficit
will need to be replaced over next 24-36
   hours
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ATRIAL FIBRILLATION (AFIB)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACIDOSIS, RESPIRATORY
 ACIDOSIS, MIXED
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2182-8-25**] 04:30 AM 40 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2182-8-20**] 10:42 PM
   20 Gauge - [**2182-8-23**] 09:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:   Patient has had continued clinical
   worsening largely related to patient inability to clear significant
   pulmonary infection despite aggressive suctioning, ongoing refinement
   of antibiotics in discussion with infectious disease antibiotic
   approval service and moving patient from bed to chair to facilitate
   secretion clearance.  Patient family upset at lack of rapid clinical
   improvement and will be in need of further support
   Code status: Full code
   Disposition : ICU
   Total time spent: 45

2182-08-26 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --changed CIWA to q3hr
   --Na=151-->154. Added 100 cc/hr of D5W IV to free water flushes. Also
   collected urine osmol, urine sodium
   --Did not use BiPAP last night since saturating well on shovel mask.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2182-8-24**] 05:56 PM
   Bactrim (SMX/TMP) - [**2182-8-25**] 06:10 AM
   Vancomycin - [**2182-8-25**] 08:40 PM
   Piperacillin - [**2182-8-26**] 05:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-8-25**] 08:00 AM
   Metoprolol - [**2182-8-25**] 08:00 AM
   Enoxaparin (Lovenox) - [**2182-8-25**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-26**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 59 (59 - 93) bpm
   BP: 119/58(73) {119/58(73) - 210/109(168)} mmHg
   RR: 21 (18 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 117.6 kg (admission): 118 kg
   Height: 72 Inch
             Total In:
                                                                  2,943 mL
                                                                  1,727 mL
   PO:
             TF:
                                                                    631 mL
                                                                    363 mL
   IVF:
                                                                  1,513 mL
                                                                    844 mL
   Blood products:
   Total out:
                                                                  2,775 mL
                                                                    300 mL
   Urine:
                                                                  2,775 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    168 mL
                                                                  1,427 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General: Sedated, in no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi.
   Exam limited patient sedated and restrained.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel present, no rebound
   tenderness or guarding, no organomegaly
   Ext: R hip with dressing in place, bilateral 1+ pedal pulses, bilateral
   LE TEDS stockings, abductor pillow in place
   Neurologic: Not assessed
   Not assessed
   Labs / Radiology
   80 K/uL
   8.9 g/dL
   150 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.9 mEq/L
   34 mg/dL
   117 mEq/L
   154 mEq/L
   27.2 %
   5.1 K/uL
        [image002.jpg]
[**2182-8-21**] 2:32 am SPUTUM      Source: Endotracheal.
                            **FINAL REPORT [**2182-8-25**]**
   GRAM STAIN (Final [**2182-8-21**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Final [**2182-8-25**]):
      SPARSE GROWTH OROPHARYNGEAL FLORA.
      HAEMOPHILUS INFLUENZAE, BETA-LACTAMASE POSITIVE.
         HEAVY GROWTH BETA-LACTAMASE POSITIVE: RESISTANT TO AMPICILLIN.
      STREPTOCOCCUS PNEUMONIAE.    MODERATE GROWTH.
         Note: For treatment of meningitis, penicillin G MIC breakpoints
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STREPTOCOCCUS PNEUMONIAE
                             |
CEFTRIAXONE-----------  0.12 S
ERYTHROMYCIN----------   =>1 R
LEVOFLOXACIN----------     1 S
PENICILLIN G----------  0.25 S
TETRACYCLINE----------  =>16 R
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------   <=1 S
                             [**2182-8-22**]  04:12 AM
                             [**2182-8-22**]  10:47 AM
                             [**2182-8-22**]  01:38 PM
                             [**2182-8-22**]  05:30 PM
                             [**2182-8-23**]  04:53 AM
                             [**2182-8-24**]  04:18 AM
                             [**2182-8-24**]  06:00 AM
                             [**2182-8-25**]  03:50 AM
                             [**2182-8-25**]  04:55 PM
                             [**2182-8-26**]  04:02 AM
   WBC
   16.5
   9.3
   5.8
   5.1
   Hct
   30.0
   28.6
   26.9
   27.2
   Plt
   86
   85
   83
   80
   Cr
   2.2
   1.9
   1.5
   1.4
   1.0
   1.1
   1.0
   TCO2
   27
   29
   27
   Glucose
   150
   155
   127
   133
   136
   159
   150
   Other labs: PT / PTT / INR:14.3/32.1/1.2, CK / CKMB /
   Troponin-T:7250//, Differential-Neuts:74.0 %, Band:8.0 %, Lymph:5.0 %,
   Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ATRIAL FIBRILLATION (AFIB)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACIDOSIS, RESPIRATORY
 ACIDOSIS, MIXED
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   This is a 48 year-old man s/p prolonged IM nail removal and bipolar R
   hip replacement complicated by large volume blood loss, transferred to
   the [**Hospital Unit Name 10**] for monitoring still intubated.
   #  Hypoxemia:  Likely secondary to HAP (initially LLL infiltrate), now
   CXR shows ?collapsed RLL. This was most likely a result of the pt lying
   on his left side for many hours during the surgery, compounded by
   volume overload and increased pulmonary secretions. The secretions have
   continued to be greenish and concerning. Fentanyl/versed sedation
   weaned off. CO2 in low 50s, likely stable hypercapnia given smoking
   history. Successfully extubated yesterday currently on BiPAP. Pt was
   afebrile overnight, although WBC trending down now 5.1. BAL w/ H. flu
   +beta lactamase (amp resistant), S. pneumo (Cx [**Last Name (un) 206**]. above). There is
   also a component of resp depression and withdrawal contributing to
   hypoxemia.
   - vanc/zosyn (started [**8-25**]) for presumed HAP
   - repeat CXR today
   - deep suction / chest PT
   - CIWA scale changed to q3h
   - cont clonidine 0.4 daily, prn haldol
   - albuterol MDI q2 prn
   .
   #  Atrial Fibrillation:  Pt went into afib w/ RVR up to the 180s
   yesterday.  Was given metoprolol IV 5 mg x 3 with partial response, HR
   down 140s, subsequently converted into atrial flutter w/ 2:1 block.
   Metoprolol 5 mg IV Q4H was started.  Pt was still tachy to the 140s and
   Diltiazem 10 mg IV x1 was given w/ good response.  Yesterday pt BPs in
   low 200s, with HRs in 110s, given CIWA and increased lopressor to 10
   q4.
   -cont. 50 tid po lopressor
   -CIWA scale (per above)
   -clonidine (per above)
   .
   #  Decreased urine output:  Concern for ATN vs pre-renal. Although
   Una<10, FeNa 0.05%, intrabd pressure < 15, U/A improved, no e/o ATN/AIN
   -> pre-renal.  Pt
s ATN now resolving, Cr steadily improving daily, now
   1.0.  Currently w/ good UOP ~70-80cc/hr. Achieved I/O goal yesterday of
   -1L.
   - cont to monitor UOP, Cr
   .
   # Hypernatremia: pt
s Na is 153 today increased from 151.
   - 250cc q4h free water through tube feeds
   -will re-check Na this pm
   .
   #  s/p hip surgery:
   - f/u ortho recs
   - strict posterior hip precautions
   - abduction pillow btw legs
   - hob not greater than 90
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2182-8-26**] 12:12 AM 60 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2182-8-20**] 10:42 PM
   20 Gauge - [**2182-8-23**] 09:56 AM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level of care

2182-08-27 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --Na=154
147, Uosm=638, UNa=24. On D5W 200cc/hr, free water flushes
   increased to 250cc.  Calculated free water deficit 4L.
   --received 15 mg Valium overnight, 4 mg morphine for aggitation and
   pulling at tubes and lines.
 BLOOD CULTURED - At [**2182-8-26**] 11:30 AM
   peripheral stick
 URINE CULTURE - At [**2182-8-26**] 11:46 AM
 BLOOD CULTURED - At [**2182-8-26**] 02:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2182-8-24**] 05:56 PM
   Bactrim (SMX/TMP) - [**2182-8-25**] 06:10 AM
   Piperacillin - [**2182-8-26**] 05:00 AM
   Vancomycin - [**2182-8-26**] 08:27 PM
   Piperacillin/Tazobactam (Zosyn) - [**2182-8-27**] 03:49 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2182-8-27**] 02:45 AM
   Diazepam (Valium) - [**2182-8-27**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-27**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 66 (59 - 82) bpm
   BP: 134/64(79) {119/58(73) - 170/105(100)} mmHg
   RR: 22 (18 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 123.6 kg (admission): 118 kg
   Height: 72 Inch
             Total In:
                                                                  5,973 mL
                                                                  1,267 mL
   PO:
             TF:
                                                                  1,587 mL
                                                                    240 mL
   IVF:
                                                                  2,857 mL
                                                                    777 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                    585 mL
   Urine:
                                                                  1,670 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,303 mL
                                                                    682 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   85 K/uL
   8.4 g/dL
   144 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.6 mEq/L
   24 mg/dL
   113 mEq/L
   147 mEq/L
   26.0 %
   5.5 K/uL
        [image002.jpg]
                             [**2182-8-22**]  01:38 PM
                             [**2182-8-22**]  05:30 PM
                             [**2182-8-23**]  04:53 AM
                             [**2182-8-24**]  04:18 AM
                             [**2182-8-24**]  06:00 AM
                             [**2182-8-25**]  03:50 AM
                             [**2182-8-25**]  04:55 PM
                             [**2182-8-26**]  04:02 AM
                             [**2182-8-26**]  02:28 PM
                             [**2182-8-27**]  04:09 AM
   WBC
   16.5
   9.3
   5.8
   5.1
   5.5
   Hct
   30.0
   28.6
   26.9
   27.2
   26.0
   Plt
   86
   85
   83
   80
   85
   Cr
   2.2
   1.9
   1.5
   1.4
   1.0
   1.1
   1.0
   1.0
   0.9
   TCO2
   27
   Glucose
   150
   155
   127
   133
   136
   159
   150
   186
   144
   Other labs: PT / PTT / INR:13.9/26.6/1.2, CK / CKMB /
   Troponin-T:7250//, Differential-Neuts:74.0 %, Band:8.0 %, Lymph:5.0 %,
   Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL,
   Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ATRIAL FIBRILLATION (AFIB)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACIDOSIS, RESPIRATORY
 ACIDOSIS, MIXED
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   This is a 48 year-old man s/p prolonged IM nail removal and bipolar R
   hip replacement complicated by large volume blood loss, transferred to
   the [**Hospital Unit Name 10**] for monitoring still intubated.
   #  Hypoxemia:  Likely secondary to HAP (initially LLL infiltrate), now
   CXR shows ?collapsed RLL. This was most likely a result of the pt lying
   on his left side for many hours during the surgery, compounded by
   volume overload and increased pulmonary secretions. The secretions have
   continued to be greenish and concerning. Fentanyl/versed sedation
   weaned off. CO2 in low 50s, likely stable hypercapnia given smoking
   history. Successfully extubated yesterday currently on BiPAP. Pt was
   afebrile overnight, although WBC trending down now 5.1. BAL w/ H. flu
   +beta lactamase (amp resistant), S. pneumo (Cx [**Last Name (un) 206**]. above). There is
   also a component of resp depression and withdrawal contributing to
   hypoxemia.
   - vanc/zosyn (started [**8-25**]) for presumed HAP
   - repeat CXR today
   - deep suction / chest PT
   - CIWA scale changed to q3h
   - cont clonidine 0.4 daily, prn haldol
   - albuterol MDI q2 prn
   .
   #  Atrial Fibrillation:  Pt went into afib w/ RVR up to the 180s
   yesterday.  Was given metoprolol IV 5 mg x 3 with partial response, HR
   down 140s, subsequently converted into atrial flutter w/ 2:1 block.
   Metoprolol 5 mg IV Q4H was started.  Pt was still tachy to the 140s and
   Diltiazem 10 mg IV x1 was given w/ good response.  Yesterday pt BPs in
   low 200s, with HRs in 110s, given CIWA and increased lopressor to 10
   q4.
   -cont. 50 tid po lopressor
   -CIWA scale (per above)
   -clonidine (per above)
   .
   #  Decreased urine output:  Concern for ATN vs pre-renal. Although
   Una<10, FeNa 0.05%, intrabd pressure < 15, U/A improved, no e/o ATN/AIN
   -> pre-renal.  Pt
s ATN now resolving, Cr steadily improving daily, now
   1.0.  Currently w/ good UOP ~70-80cc/hr.
   - cont to monitor UOP, Cr
   .
   # Hypernatremia: pt
s Na is 153 today increased from 151.
   - 250cc q4h free water through tube feeds
   -will re-check Na this pm
   .
   #  s/p hip surgery:
   - f/u ortho recs
   - strict posterior hip precautions
   - abduction pillow btw legs
   - hob not greater than 90
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2182-8-26**] 12:12 AM 60 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2182-8-20**] 10:42 PM
   20 Gauge - [**2182-8-23**] 09:56 AM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-8-26**] 11:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-08-28 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --Na 145 yesterday evening, continued 250cc free h20 flushes through
   NGT
   --not agitated overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2182-8-26**] 05:00 AM
   Vancomycin - [**2182-8-27**] 08:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2182-8-27**] 12:43 PM
   Ampicillin/Sulbactam (Unasyn) - [**2182-8-28**] 05:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2182-8-27**] 07:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-28**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 57 (57 - 71) bpm
   BP: 114/58(70) {114/58(70) - 166/96(108)} mmHg
   RR: 18 (18 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126 kg (admission): 118 kg
   Height: 72 Inch
             Total In:
                                                                  4,163 mL
                                                                  1,329 mL
   PO:
             TF:
                                                                  1,101 mL
                                                                    560 mL
   IVF:
                                                                  2,112 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  1,965 mL
                                                                    750 mL
   Urine:
                                                                  1,965 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,198 mL
                                                                    579 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General: arousable, in no acute distress, AOx2
   HEENT: Sclera anicteric, MMM
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi.
   Exam limited patient sedated and restrained.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel present, no rebound
   tenderness or guarding, no organomegaly
   Ext: R hip with dressing in place, bilateral 1+ pedal pulses, bilateral
   LE TEDS stockings, abductor pillow in place
   Neurologic: not assessed
   Labs / Radiology
   56 K/uL
   9.6 g/dL
   107 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.9 mEq/L
   20 mg/dL
   112 mEq/L
   148 mEq/L
   29.6 %
   5.3 K/uL
        [image002.jpg]
                             [**2182-8-22**]  05:30 PM
                             [**2182-8-23**]  04:53 AM
                             [**2182-8-24**]  04:18 AM
                             [**2182-8-24**]  06:00 AM
                             [**2182-8-25**]  03:50 AM
                             [**2182-8-25**]  04:55 PM
                             [**2182-8-26**]  04:02 AM
                             [**2182-8-26**]  02:28 PM
                             [**2182-8-27**]  04:09 AM
                             [**2182-8-28**]  04:04 AM
   WBC
   16.5
   9.3
   5.8
   5.1
   5.5
   5.3
   Hct
   30.0
   28.6
   26.9
   27.2
   26.0
   29.6
   Plt
   86
   85
   83
   80
   85
   56
   Cr
   2.2
   1.9
   1.5
   1.4
   1.0
   1.1
   1.0
   1.0
   0.9
   0.8
   Glucose
   150
   155
   127
   133
   136
   159
   150
   186
   144
   107
   Other labs: PT / PTT / INR:13.9/26.6/1.2, CK / CKMB /
   Troponin-T:7250//, Differential-Neuts:74.0 %, Band:8.0 %, Lymph:5.0 %,
   Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ATRIAL FIBRILLATION (AFIB)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACIDOSIS, RESPIRATORY
 ACIDOSIS, MIXED
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   This is a 48 year-old man s/p prolonged IM nail removal and bipolar R
   hip replacement complicated by large volume blood loss, transferred to
   the [**Hospital Unit Name 10**] for monitoring still intubated.
   # Hypernatremia: pt
s Na is 148 today up from 145 last night.
   - cont 250cc q4h free water through tube feeds
   -will re-check Na this pm
   #Withdrawal/pain/delirum:  Pt has received a large amount of valium for
   his CIWA and ranges from barely arousable to aggitation.  Cosidering
   alternate causes for his delirum including hypernatremia, pain,
   sundowning (aggitation is mostly at night).  Not agitated yesterday,
   w/o medications.
   -cont morphine prn
   - consider zyprexa if agitated overnight
   #Thrombocytopenia: Pt
s platelet count has been decreasing steadily
   since admission.  Today 56 from 85 yesterday.  Considering HIT (low
   suspicion as pt on lovenox) vs drug reaction.
   -dc
d famotidine
   -will dc unasyn today after last dose
   -will check pm CBC
   #  Hypoxemia:  Likely secondary to HAP (initially LLL infiltrate), now
   CXR shows ?collapsed RLL. This was most likely a result of the pt lying
   on his left side for many hours during the surgery, compounded by
   volume overload and increased pulmonary secretions. The secretions have
   continued to be greenish and concerning. Fentanyl/versed sedation
   weaned off. CO2 in low 50s, likely stable hypercapnia given smoking
   history. Successfully extubated yesterday currently on BiPAP. Pt was
   afebrile overnight, although WBC trending down now 5.1. BAL w/ H. flu
   +beta lactamase (amp resistant), S. pneumo (Cx [**Last Name (un) 206**]. above). There is
   also a component of resp depression and withdrawal contributing to
   hypoxemia.
   - vanc/zosyn dc
d, pt re-started on unasyn for the rest of his course
   (total 8 days).  Today is last day of abx will dc after last dose.
   - chest PT
   - albuterol MDI q2 prn
   .
   #  Atrial Fibrillation:  Pt stable w/ no more episodes of a-fib w/ RVR
   on current regimen.
   -cont. 50 tid po lopressor
   -clonidine 0.4 daily
   .
   #  Decreased urine output:  Concern for ATN vs pre-renal. Although
   Una<10, FeNa 0.05%, intrabd pressure < 15, U/A improved, no e/o ATN/AIN
   -> pre-renal.  Pt
s ATN now resolving, Cr steadily improving daily, now
   0.8.  Currently w/ good UOP ~90-100cc/hr.
   - cont to monitor UOP, Cr
   .
   #  s/p hip surgery:
   -f/u PT
   - f/u ortho recs
   - strict posterior hip precautions
   - abduction pillow btw legs
   - hob not greater than 90
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2182-8-26**] 12:12 AM 60 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2182-8-20**] 10:42 PM
   20 Gauge - [**2182-8-23**] 09:56 AM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level of care
   ------ Protected Section ------
   Error on assessment, patient was extubated
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 7380**], MD
   on:[**2182-8-28**] 14:20 ------
   on [**8-22**].
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 7380**], MD
   on:[**2182-8-28**] 14:23 ------

2182-08-29 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --Patient failed bedside swallow, but passed video swallow study
   --Patient not on oxygen. Able to sit on chair/walk in afternoon.
   --agitated, yet directable.
   --Patient's platelets stable at 96, Na=143.
   --hypertensive at night, so given metoprolol 5mg IV
   --patient more awake and alert this am, able to answer questions and
   follow commands.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-8-27**] 08:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2182-8-27**] 12:43 PM
   Ampicillin/Sulbactam (Unasyn) - [**2182-8-28**] 06:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-8-28**] 09:00 AM
   Metoprolol - [**2182-8-29**] 01:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-29**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 62 (60 - 80) bpm
   BP: 151/82(95) {99/62(77) - 180/90(137)} mmHg
   RR: 25 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126 kg (admission): 118 kg
   Height: 72 Inch
             Total In:
                                                                  4,083 mL
                                                                    546 mL
   PO:
             TF:
                                                                  1,933 mL
                                                                    477 mL
   IVF:
                                                                    640 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    500 mL
   Urine:
                                                                  1,870 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,213 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General: arousable, in no acute distress, AOx2
   HEENT: Sclera anicteric, MMM
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi.
   Exam limited patient sedated and restrained.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel present, no rebound
   tenderness or guarding, no organomegaly
   Ext: R hip with dressing in place, bilateral 1+ pedal pulses, bilateral
   LE TEDS stockings, abductor pillow in place
   Neurologic: not assessed
   Labs / Radiology
   96 K/uL
   9.2 g/dL
   143 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.5 mEq/L
   21 mg/dL
   109 mEq/L
   142 mEq/L
   28.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2182-8-24**]  04:18 AM
                             [**2182-8-24**]  06:00 AM
                             [**2182-8-25**]  03:50 AM
                             [**2182-8-25**]  04:55 PM
                             [**2182-8-26**]  04:02 AM
                             [**2182-8-26**]  02:28 PM
                             [**2182-8-27**]  04:09 AM
                             [**2182-8-28**]  04:04 AM
                             [**2182-8-28**]  03:41 PM
                             [**2182-8-29**]  04:24 AM
   WBC
   9.3
   5.8
   5.1
   5.5
   5.3
   6.9
   6.5
   Hct
   28.6
   26.9
   27.2
   26.0
   29.6
   27.9
   28.1
   Plt
   85
   83
   80
   85
   56
   99
   96
   Cr
   1.5
   1.4
   1.0
   1.1
   1.0
   1.0
   0.9
   0.8
   0.9
   0.8
   Glucose
   127
   133
   136
   159
   150
   186
   144
   107
   115
   143
   Other labs: PT / PTT / INR:13.9/26.6/1.2, CK / CKMB /
   Troponin-T:7250//, Differential-Neuts:74.0 %, Band:8.0 %, Lymph:5.0 %,
   Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ATRIAL FIBRILLATION (AFIB)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACIDOSIS, RESPIRATORY
 ACIDOSIS, MIXED
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   This is a 48 year-old man s/p prolonged IM nail removal and bipolar R
   hip replacement complicated by large volume blood loss, transferred to
   the [**Hospital Unit Name 10**] for monitoring.  Subsequently developed PNA w left lower lobe
   colapse and EtOH withdrawal.
   #Hypertension:  pt was hypertensive last night up to 180/81.  Given 5mg
   metoprolol IV w/ good response. Now 151/82.
   -cont to moniotor BP closely
   # Hypernatremia: pt
s Na is 142 today up from 143 yesterday.
   -will decrease  free water through tube feeds to 100cc/hr
   -will re-check Na in the am
   #Withdrawal/pain/delirum:  Pt has received a large amount of valium for
   his CIWA and ranges from barely arousable to aggitation.  Cosidering
   alternate causes for his delirum including hypernatremia, pain,
   sundowning (aggitation is mostly at night).  Not agitated overnight but
   was agitated and threatening in the am.  Received no meds.
   -cont morphine prn
   -consider zyprexa if still agitated and threatening.
   #Thrombocytopenia: Pt
s platelet count has been decreasing steadily
   since admission.  Today 96 from [**Age over 90 **] yesterday in the pm and 56 yesterday
   in the am.  Considering HIT (low suspicion as pt on lovenox) vs drug
   reaction.  Most likely lab error.
   -will check CBC in the PM
   #  Hypoxemia:  Likely secondary to HAP (initially LLL infiltrate), now
   CXR shows ?collapsed RLL. This was most likely a result of the pt lying
   on his left side for many hours during the surgery, compounded by
   volume overload and increased pulmonary secretions. The secretions have
   continued to be greenish and concerning. Fentanyl/versed sedation
   weaned off. CO2 in low 50s, likely stable hypercapnia given smoking
   history. Successfully extubated yesterday currently on BiPAP. Pt was
   afebrile overnight, although WBC trending down now 5.1. BAL w/ H. flu
   +beta lactamase (amp resistant), S. pneumo (Cx [**Last Name (un) 206**]. above). There is
   also a component of resp depression and withdrawal contributing to
   hypoxemia.   Pt finished his course of antibiotics yesterday (8 days of
   Unasyn).  Currently off O2 on RA sats ~95%.
   - chest PT
   - albuterol MDI q2 prn
   .
   #  Atrial Fibrillation:  Pt stable w/ no more episodes of a-fib w/ RVR
   on current regimen.
   -cont. 50 tid po lopressor
   -clonidine 0.4 daily
   .
   #  Decreased urine output:  Concern for ATN vs pre-renal. Although
   Una<10, FeNa 0.05%, intrabd pressure < 15, U/A improved, no e/o ATN/AIN
   -> pre-renal.  Pt
s ATN now resolving, Cr steadily improving daily, now
   0.8.  Currently w/ good UOP ~100cc/hr.
   - cont to monitor UOP, Cr
   .
   #  s/p hip surgery:
    -f/u PT
   - f/u ortho recs
   - strict posterior hip precautions
   - abduction pillow btw legs
   - hob not greater than 90
   ICU Care
   Nutrition:
   Will advance to purees today.
   Glycemic Control:
   Lines:
   16 Gauge - [**2182-8-20**] 10:42 PM
   20 Gauge - [**2182-8-23**] 09:56 AM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level of care